US07705025B2
[4-(5-Ethanesulfonyl-thiophen-2-yl)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to General Procedure D in 5 mL 50% DMF/dichloromethane using 4-(5-ethanesulfonyl-thiophen-2-yl)-benzoic acid, Lithium salt (118 mg, 0.39 mmol), EDC-HCl (115 mg, 0.60 mmol), HOBt (81 mg, 0.60 mmol), DIEA (0.17 mL, 1.0 mmol) and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine (61 mg, 0.36 mmol) to give the title compound (80 mg, 50% yield). MS (ES+) 447.3 (M+H)+

reactant | 4-(5-ethanesulfonyl-thiophen-2-yl)-benzoic acid | C(C)S(=O)(=O)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C13H12O4S2
reactant | Lithium | 0.39 mmol, 118 mg | [Li] | Li
reactant | EDC-HCl | 0.60 mmol, 115 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.60 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.0 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | 0.36 mmol, 61 mg | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
solvent | DMF dichloromethane | 5 mL | CN(C)C=O.ClCCl
product | [4-(5-Ethanesulfonyl-thiophen-2-yl)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | 80 mg, 50% yield | C(C)S(=O)(=O)C1=CC=C(S1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H30N2O3S2
